### ISSUE TITLE
@[simp] not working on nightly 2022-01-10

### ISSUE THREAD

**Issue by arthurpaulino** [leanprover/lean4#946]
### Description

`@[simp]` is not working properly and is breaking code that worked smoothly on nightly 2022-01-06.

### Steps to Reproduce

Try the following piece of code on `leanprover/lean4:nightly-2022-01-06` and `leanprover/lean4:nightly-2022-01-10`. It works on the former but breaks on the later.

```lean
inductive DataType
  | TInt
  | TFloat
  | TString

open DataType

inductive DataEntry
  | EInt (i : Int)
  | EFloat (f : Float)
  | EString (s : String)
  | NULL

def NULL := DataEntry.NULL

instance : Coe Int DataEntry where
  coe := DataEntry.EInt

instance : Coe Float DataEntry where
  coe := DataEntry.EFloat

instance : OfScientific DataEntry where
  ofScientific m s e := DataEntry.EFloat (OfScientific.ofScientific m s e)

instance : Coe String DataEntry where
  coe := DataEntry.EString

namespace DataEntry

@[simp] def isOf (e : DataEntry) (t : DataType) : Prop :=
  match e, t with
  | EInt _,    TInt    => True
  | EFloat _,  TFloat  => True
  | EString _, TString => True
  | NULL,      _       => True
  | _,         _       => False

end DataEntry

abbrev Header := List (DataType × String)

def Header.colTypes (h : Header) : List DataType :=
  h.map fun x => x.1

def Header.colNames (h : Header) : List String :=
  h.map fun x => x.2

abbrev Row := List DataEntry

@[simp] def rowOfTypes : Row → List DataType → Prop
  | [],       []       => True
  | eh :: et, th :: tt => eh.isOf th ∧ rowOfTypes et tt
  | _,        _        => False

@[simp] def rowsOfTypes : List Row → List DataType → Prop
  | row :: rows, types => rowOfTypes row types ∧ rowsOfTypes rows types
  | [],          _     => True

structure DataFrame where
  header     : Header
  rows       : List Row
  consistent : rowsOfTypes rows header.colTypes := by simp

namespace DataFrame

def empty (header : Header := []) : DataFrame :=
  ⟨header, [], by simp⟩

theorem consistentConcatOfConsistentRow
    {df : DataFrame} (row : List DataEntry)
    (hc : rowOfTypes row df.header.colTypes) :
      rowsOfTypes (df.rows.concat row) (Header.colTypes df.header) :=
  match df with
    | ⟨_, rows, hr⟩ => by
      induction rows with
        | nil         => simp [hc] -- breaks here
        | cons _ _ hi => exact ⟨hr.1, hi hr.2 hc⟩

def addRow (df : DataFrame) (row : List DataEntry)
    (h : rowOfTypes row df.header.colTypes := by simp) : DataFrame :=
  ⟨df.header, df.rows.concat row, consistentConcatOfConsistentRow row h⟩

end DataFrame

def h : Header := [(TInt, "id"), (TString, "name")]

def r : List Row := [[1, "alex"]]

-- this no longer works
def df1 : DataFrame := DataFrame.mk h r

-- and this ofc breaks now
def df2 : DataFrame := df1.addRow [2, "juddy"]

-- this doesn't work anymore either
def df3 : DataFrame := DataFrame.empty h |>.addRow [3, "john"]
```

**Expected behavior:**

Since I'm not doing anything too fancy and everything works as expected on `nightly 2022-01-06`, I'd expect it to work on 01-10 too.

**Actual behavior:**

The theorem doesn't work anymore. And the instantiations that rely on `by simp` as auto params don't work either.

**Reproduces how often:**

100%

### Versions

`leanprover/lean4:nightly-2022-01-10`

I'm using Ubuntu

### Additional Information

`leanprover/lean4:nightly-2022-01-10` breaks some proofs that I have [here](https://github.com/arthurpaulino/LeanMusic/blob/master/LeanMusic/Intervals.lean) too.

And here's a link to the [Zulip thread](https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/.40.5Bsimp.5D.20not.20working.3F/near/267638408).
